US07745475B2
3-Hydroxy-N-(1-methyl-1H-pyrazol-3-yl)-5-{(1S)-1-methyl-2-[(triisopropylsilyl)oxy]ethoxy}benzamide
10% Palladium on carbon was added to 3-(benzyloxy)-N-(1-methyl-1H-pyrazol-3-yl)-5-{(1S)-1-methyl-2-[(triisopropylsilyl)oxy]ethoxy}benzamide (21.7 g, 40.4 mmol) in dry THF (480 mL) under argon. The reaction mixture was degassed and placed under a hydrogen balloon and stirred for 16 hours. The atmosphere was replaced with argon and mixture was filtered through diatomaceous earth then the filtrate evaporated and dried under high vacuum for 1 hour to give the title compound (18.2 g).

reactant | 3-(benzyloxy)-N-(1-methyl-1H-pyrazol-3-yl)-5-{(1S)-1-methyl-2-[(triisopropylsilyl)oxy]ethoxy}benzamide | 40.4 mmol, 21.7 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O[C@H](CO[Si](C(C)C)(C(C)C)C(C)C)C | C30H43N3O4Si
catalyst | Palladium on carbon | [Pd] | Pd
solvent | THF | 480 mL | C1CCOC1 | C4H8O
product | 3-Hydroxy-N-(1-methyl-1H-pyrazol-3-yl)-5-{(1S)-1-methyl-2-[(triisopropylsilyl)oxy]ethoxy}benzamide | 18.2 g | OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O[C@H](CO[Si](C(C)C)(C(C)C)C(C)C)C | C23H37N3O4Si
